US04182711
(B) Preparation of p-Nitrobenzyl 2-[4-(2-Methoxyethoxyacetylthio)-2-oxo-1-azetidinyl]-2-chloroacetate
To 800 mg. of p-nitrobenzyl 2-[4-(2-methoxyethoxyacetylthio)-2-oxo-1-azetidinyl]-2-hydroxyacetate was added (all at once) at 0° under N2 atmosphere, thionyl cloride (3 ml.) and the mixture was stirred at room temperature under N2 for 1 hour. The excess of thionyl chloride was removed in vacuo and the residue dissolved in dry benzene (10 ml.) and evaporated to dryness. There was obtained the title product (791 mg.) as a yellowish oil. nmr (CDCl3): δppm 2.9-3.9 (2H, m, H-3), 4.10 (3H, s, -OCH3), 3.5-3.9 (4H, m, -OCH2CH2O-), 4.24 (2H, s, O=C-CH2O-), 5.35-5.45 (2H, m, -CH2 -Ar), 5.70 (1H, m, H-4), 6.12 (1H, s, -CHCl), 7.52, 7.67, 8.21, 5.39 (4H, A2 ' B2 ', aromatic -H); ir (neat): 1780 cm-1 (broad, νc=o, β-lactam and ester), 1695 (νc=o, thioester), 1525 (νNO2).

reactant | p-nitrobenzyl 2-[4-(2-methoxyethoxyacetylthio)-2-oxo-1-azetidinyl]-2-hydroxyacetate | COCCOCC(=O)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O)=O | C17H20N2O9S
reactant | thionyl cloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
product | p-Nitrobenzyl 2-[4-(2-Methoxyethoxyacetylthio)-2-oxo-1-azetidinyl]-2-chloroacetate | 791 mg | COCCOCC(=O)SC1CC(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Cl)=O | C17H19ClN2O8S
